US05942515
Preparation of 5-(benzyloxymethyl)-8-sec-butyl-6,7-dihydro-8H-pyrolo[3,2-e]pyrazolo[1,5-a]pyrimidine:
In 5.0 ml of dimethylformamide were dissolved 0.44 g of 5-(benzyloxymethyl)-7-chloro-6-(2-chloroethyl)pyrazolo-[1,5-a]pyrimidine. To the solution, were added 0.15 g of sec-butylamine and 0.26 ml of triethylamine. The mixture was stirred for 1 hour at room temperature and then for 3 hours in an oil bath heated to 100-110° C. Additional 0.06 g of sec-butylamine were added, and the resultant mixture was stirred for 6.3 hours at the same temperature. After the solvent was distilled off under reduced pressure, and 1N hydrochloric acid was added to the resudue, the mixture was extracted with chloroform. After the chloroform layer was washed with a saturated saline solution and then dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resultant crude product was subjected to column chromatography on silica gel (elution solvent: hexane:ethyl acetate=3:1) to obtain 0.33 g (yield: 75.0%) of the intended product.

reactant | 5-(benzyloxymethyl)-7-chloro-6-(2-chloroethyl)pyrazolo-[1,5-a]pyrimidine | 0.44 g | C(C1=CC=CC=C1)OCC1=NC=2N(C(=C1CCCl)Cl)N=CC2 | C16H15Cl2N3O
reactant | sec-butylamine | 0.15 g | C(C)(CC)N | C4H11N
reactant | triethylamine | 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | sec-butylamine | 0.06 g | C(C)(CC)N | C4H11N
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 5-(benzyloxymethyl)-8-sec-butyl-6,7-dihydro-8H-pyrolo[3,2-e]pyrazolo[1,5-a]pyrimidine | 0.33 g, yield: 75.0% | C(C1=CC=CC=C1)OCC1=NC=2N(C3=C1CCN3C(C)CC)N=CC2 | C20H24N4O
